US07012075B2
To tert-butyl 4-[4-(3-methyl-5-{[(2,2,2-trichloroethoxy)carbonyl]amino}isoxazol-4-yl)phenyl]piperazine-1-carboxylate (617 mg, 1.16 mmol), methyl 2-hydroxy-4-methylpentanoate (255 mg, 1.74 mmol) and triphenyl phosphine (460 mg, 1.74 mmol) in dry DMF (15 mL) at 0° C. under dry nitrogen was added diisopropyl azodicarboxylate (0.35 mL, 1.74 mmol) dropwise over ½ hour and the reaction mixture was stirred for 2 days at rt. The reaction was poured into water and the product extracted with Et2O (2×), dried over Na2SO4, concentrated in vacuo and purified by flash chromatography over silica gel (EtOAc/Hex, 25/75) to afford methyl N-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-3-methylisoxazol-5-yl)-N-[(2,2,2-trichloroethoxy)carbonyl]leucinate.

reactant | tert-butyl 4-[4-(3-methyl-5-{[(2,2,2-trichloroethoxy)carbonyl]amino}isoxazol-4-yl)phenyl]piperazine-1-carboxylate | 1.16 mmol, 617 mg | CC1=NOC(=C1C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)NC(=O)OCC(Cl)(Cl)Cl | C22H27Cl3N4O5
reactant | methyl 2-hydroxy-4-methylpentanoate | 1.74 mmol, 255 mg | OC(C(=O)OC)CC(C)C | C7H14O3
reactant | triphenyl phosphine | 1.74 mmol, 460 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.74 mmol, 0.35 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl N-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-3-methylisoxazol-5-yl)-N-[(2,2,2-trichloroethoxy)carbonyl]leucinate | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C=1C(=NOC1N([C@@H](CC(C)C)C(=O)OC)C(=O)OCC(Cl)(Cl)Cl)C | C29H39Cl3N4O7
